US05607939
3,4-Dihydrospiro[naphthalene-2(1H), 2'-piperidin]-1-one hydrochloride
In 250 ml of 1,2-dichloroethane was dissolved 7.64 g of 1-benzoyl-2-(2-phenylethyl)-2piperidinecarbonitrile. Then, 8.0 g of aluminum chloride was added and the mixture was refluxed for 6 hours. The reaction mixture was cooled and poured cautiously into 10% aqueous sodium hydroxide solution. Then, methylene chloride and water were added for extraction. The methylene chloride layer was dried over anhydrous sodium sulfate and filtered and the solvent was distilled off. To the residue were added 100 ml of methanol and 100 ml of 20% aqueous sodium hydroxide solution and the mixture was refluxed for 12 hours. After the reaction mixture was allowed to cool, the methanol was distilled off and methylene chloride and water were added for extraction. The methylene chloride layer was dried over anhydrous sodium sulfate and filtered and the solvent was then distilled off. The residue was purified by alumina column chromatography using an ethyl acetate-hexane solvent system and the eluate containing the desired compound was distilled under reduced pressure. The residue was treated with 6.0 ml of 4N-methanolic HCl to provide a solid. This solid was recrytallized from methylene chloride to provide 3.0 g of colorless crystals.

reactant | 1-benzoyl-2-(2-phenylethyl)-2piperidinecarbonitrile | 7.64 g | C(C1=CC=CC=C1)(=O)N1C(CCCC1)(C#N)CCC1=CC=CC=C1 | C21H22N2O
reactant | aluminum chloride | 8.0 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | 1,2-dichloroethane | 250 ml | ClCCCl | C2H4Cl2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 3,4-Dihydrospiro[naphthalene-2(1H), 2'-piperidin]-1-one hydrochloride | 3.0 g | Cl.N1C2(CCCC1)C(C1=CC=CC=C1CC2)=O | InChI=1S/C14H17NO.ClH/c16-13-12-6-2-1-5-11(12)7-9-14(13)8-3-4-10-15-14;/h1-2,5-6,15H,3-4,7-10H2;1H
